### PR TITLE
feat: Lindemann-Weierstrass Theorem

### PR DESCRIPTION
**Pull request by astrainfinita**
---

There's still a lot of work to be done before it gets into mathlib.

- [x] depends on: #6593
- [x] depends on: #6719
- [x] depends on: #6723
- [x] depends on: #6740
- [x] depends on: #7274
- [x] depends on: #8807
- [x] depends on: #12191
- [x] depends on: #12764
- [x] depends on: #16259
- [x] depends on: #16262
- [x] depends on: #16886
- [x] depends on: #16898
- [x] depends on: #16923
- [x] depends on: #16933
- [x] depends on: #17119
- [x] depends on: #17893
- [x] depends on: #17894 
- [x] depends on: #17896
- [x] depends on: #18556
- [ ] depends on: #18693
- [x] depends on: #19225 
- [x] depends on: #19246
- [x] depends on: #20092

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by Ruben-VandeVelde** [comment]
fyi @j-loreaux: I needed to add an instance from #5602 to fix the build here after merging master

**Comment by j-loreaux** [comment]
That's fine. It should be back in after the update PR. I had only removed it so that the #5602 was cleanly reverted.

File: Mathlib/Algebra/MonoidAlgebra/Equiv.lean [hunk 1]
```diff
@@ -0,0 +1,143 @@
...
+TODO
+-/
+
+noncomputable section
+
+namespace AddMonoidAlgebra
+
+@[simps]
+def ringEquivCongrLeft {R S G : Type _} [Semiring R] [Semiring S] [AddMonoid G] (f : R ≃+* S) :
+    AddMonoidAlgebra R G ≃+* AddMonoidAlgebra S G :=
```
Comment (alreadydone) [inline Mathlib/Algebra/MonoidAlgebra/Equiv.lean:20]: This file should be easy to PR separately.

In general I think these `Equiv`s should be obtained by combining both directions (`RingHom`s in this case). We should show that `AddMonoidAlgebra · G` is a functor (prove the `comp` and `id` lemmas) and deduce that both directions are inverse to each other.

Some assumptions might be able to be generalized, e.g. here [AddZeroClass G] should work.

File: Mathlib/NumberTheory/Transcendental/LindemannWeierstrass.lean [hunk 2]
```diff
@@ -0,0 +1,1444 @@
...
+#align to_conj_equiv_symm_single toConjEquiv_symm_single
+
+theorem single_prod_apply_zero_ne_zero_iff (x : GalConjClasses ℚ (K s)) {a : F} (ha : a ≠ 0)
+    (y : GalConjClasses ℚ (K s)) {b : F} (hb : b ≠ 0) :
+    (Finsupp.single x a * Finsupp.single y b) 0 ≠ 0 ↔ x = -y := by
+  simp_rw [Finsupp.GalConjClasses.mul_def, toConjLinearEquiv_apply, toConjLinearEquiv_symm_apply,
+    toConjEquiv_apply_zero_eq]
+  simp_rw [toConjEquiv_symm_single, MulMemClass.mk_mul_mk]
+  haveI := Nat.noZeroSMulDivisors ℚ F
+  simp_rw [Finsupp.indicator_const_eq_sum_single, sum_mul, mul_sum,
```
Comment (alreadydone) [inline Mathlib/NumberTheory/Transcendental/LindemannWeierstrass.lean:721]:
```suggestion
  simp_rw [Finsupp.indicator_eq_sum_single, sum_mul, mul_sum,
```

File: Mathlib/Algebra/BigOperators/Finsupp.lean [hunk 3]
```diff
@@ -629,6 +633,11 @@ lemma prod_indicator_index [Zero M] [CommMonoid N]
     (indicator s (fun x _ ↦ f x)).prod h = ∏ x in s, h x (f x) :=
   (prod_indicator_index_eq_prod_attach _ h_zero).trans <| prod_attach (f := fun x ↦ h x (f x))
 
+@[to_additive (attr := simp)]
+theorem prod_indicator_const_index [Zero M] [CommMonoid N] {s : Finset α} (m : M) {h : α → M → N}
+    (h_zero : ∀ a ∈ s, h a 0 = 1) : (indicator s fun _ _ => m).prod h = ∏ x in s, h x m :=
+  prod_indicator_index _ h_zero
+
```
Comment (alreadydone) [inline Mathlib/Algebra/BigOperators/Finsupp.lean:640]: I think these can be removed now (more general versions were merged)

File: Mathlib/FieldTheory/GalConj.lean [hunk 4]
```diff
@@ -0,0 +1,394 @@
...
+    refine' ⟨-y.out, y.out, _⟩
+    simp_rw [mk_neg, out_eq, neg_add_self]
+#align gal_conj_classes.exist_mem_orbit_add_eq_zero GalConjClasses.exist_mem_orbit_add_eq_zero
+
+variable [IsSeparable F E]
+
+noncomputable nonrec def minpoly : GalConjClasses F E → F[X] :=
+  Quotient.lift (minpoly F) fun (a b : E) ⟨f, h⟩ =>
+    minpoly.eq_of_algHom_eq f.symm.toAlgHom f.symm.injective (IsSeparable.isIntegral F a)
+      (h ▸ (f.symm_apply_apply b).symm)
```
Comment (alreadydone) [inline Mathlib/FieldTheory/GalConj.lean:247]: This seems to be the only place `minpoly.eq_of_algHom_eq` is used. Should be easy to use [minpoly.minpoly_algHom](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/Minpoly/Basic.html#minpoly.minpoly_algHom) instead?

File: Mathlib/Algebra/MonoidAlgebra/Equiv.lean
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/Equiv.lean:1]: This file isn't used at all by the rest of this PR; can it just be deleted?

File: Mathlib/NumberTheory/Transcendental/LindemannWeierstrass.lean [hunk 5]
```diff
@@ -0,0 +1,1444 @@
...
+  rw [Finsupp.support_mapRange_of_injective]
+  exact AlgEquiv.injective _
+#align support_rat_coeff_equiv support_ratCoeffEquiv
+
+section
+
+variable (F : Type _) [Field F] [Algebra ℚ F]
+
+noncomputable def mapDomainFixed : Subalgebra F (AddMonoidAlgebra F (K s)) where
+  carrier x := ∀ f : Gal s, AddMonoidAlgebra.mapDomainAlgAut ℚ _ f.toAddEquiv x = x
```
Comment (eric-wieser) [inline Mathlib/NumberTheory/Transcendental/LindemannWeierstrass.lean:495]:
```suggestion
  carrier := {x | ∀ f : Gal s, AddMonoidAlgebra.mapDomainAlgAut ℚ _ f.toAddEquiv x = x}
```
This is supposed to be a set

File: Mathlib/Data/Polynomial/Derivative.lean [hunk 6]
```diff
@@ -669,6 +680,10 @@ theorem iterate_derivative_X_sub_pow (n k : ℕ) (c : R) :
 set_option linter.uppercaseLean3 false in
 #align polynomial.iterate_derivative_X_sub_pow Polynomial.iterate_derivative_X_sub_pow
 
+theorem iterate_derivative_X_sub_pow' (n k : ℕ) (c : R) :
+    (derivative^[k]) ((X - C c) ^ n : R[X]) = n.descFactorial k • (X - C c) ^ (n - k) := by
+  rw [iterate_derivative_X_sub_pow, Nat.descFactorial_eq_prod_range, nsmul_eq_mul]
```
Comment (alreadydone) [inline Mathlib/Data/Polynomial/Derivative.lean:685]: `iterate_derivative_X_add_pow`, `iterate_derivative_X_sub_pow`, `coeff_iterate_derivative_as_prod_range` are not used anywhere, so I guess we could just change their statements?

I haven't looked at Derivative2.lean carefully, but some stuff there look like they could be PR'd into this file ...

File: Mathlib/NumberTheory/Transcendental/LindemannWeierstrass.lean [hunk 7]
```diff
@@ -0,0 +1,1441 @@
...
+
+end
+
+section toConjEquiv
+
+variable (F : Type _) [Field F] [Algebra ℚ F]
+
+open GalConjClasses
+
+def toConjEquiv : mapDomainFixed s F ≃ (GalConjClasses ℚ (K s) →₀ F) := by
```
Comment (alreadydone) [inline Mathlib/NumberTheory/Transcendental/LindemannWeierstrass.lean:538]: The LHS can be replaced by the subset of `A →₀ F` consisting of elements `x` such that `x a = x b` whenever `a ~ b` for some equivalence relation `~` on `A`, and `GalConjClasses ℚ (K s)` would be replaced by the quotient by the equivalence relation. This works for `Pi` always, but for `Finsupp` the right-to-left direction needs the equivalence classes to be finite.

The next 150+ lines seem to be mainly using this `Equiv` to transfer algebraic instances on the LHS to the RHS, and it's not yet clear to me why this is necessary; could we not just use this Equiv to map to the LHS and do all algebraic operations there?

File: Mathlib/NumberTheory/Transcendental/LindemannWeierstrass.lean [hunk 8]
```diff
@@ -0,0 +1,1441 @@
...
+
+end Quotient
+
+section
+
+variable (s : Finset ℂ)
+
+namespace Transcendental -- Conflict with Mathlib.NumberTheory.Dioph
+abbrev Poly : ℚ[X] :=
+  ∏ x in s, minpoly ℚ x
```
Comment (alreadydone) [inline Mathlib/NumberTheory/Transcendental/LindemannWeierstrass.lean:370]: I'm wondering whether i would be easier to take the [normalClosure](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/NormalClosure.html#normalClosure) of `IntermediateField.adjoin ℚ s` in `ℂ`, or we can do it in one step by adjoining all conjugates (same minpoly) of elements in `s`. Or maybe we can directly work with automorphisms of ℂ rather than of an intermediate field?

**Comment by Ruben-VandeVelde** [comment]
I'll fix the merge conflicts tomorrow.

File: Mathlib/FieldTheory/GalConj.lean [hunk 9]
```diff
@@ -0,0 +1,323 @@
...
+    change _ = NormalClosure.algebraAux _ _ _ _
+    simp [NormalClosure.algebraAux_def, AlgEquiv.eq_symm_apply]
+
+instance [Normal F E'] : IsScalarTower F (NormalClosure F E) E' :=
+  .of_algebraMap_eq fun x ↦ by
+    change _ = NormalClosure.algebraAux _ _ _ _
+    simp [NormalClosure.algebraAux_def, AlgEquiv.eq_symm_apply]
+
+def IsGalConj.setoid :=
+  (MulAction.orbitRel (NormalClosure F E ≃ₐ[F] NormalClosure F E) (NormalClosure F E)).comap
```
Comment (alreadydone) [inline Mathlib/FieldTheory/GalConj.lean:43]: This is quite a restrictive definition (only applies to NormalClosure). I recall it was defined using `minpoly` before; am I hallucinating? If #17783 is merged this file should probably switch to use it?

Comment (jjdishere) [reply Mathlib/FieldTheory/GalConj.lean:43]: I‘ve discussed with @FR-vdash-bot and we believe that the definition here and in #17783 is indeed mathematically equivalent, even in the case of transcendental extensions. (Although some more api's need to be built.) We agreed to use the `minpoly K x = minpoly K y` definition since it involves less.

File: Mathlib/NumberTheory/Transcendental/Lindemann/Basic.lean [hunk 10]
```diff
@@ -205,8 +206,20 @@ private theorem linearIndependent_exp' (u : ι → ℂ) (hu : ∀ i, IsIntegral
...
     LinearIndependent (integralClosure ℚ ℂ) fun i ↦ exp (u i) :=
-  Fintype.linearIndependent_iff.mpr fun v h ↦ mod_cast
-    linearIndependent_exp' (u ·) (u · |>.2) (fun i j ↦ by simpa using @u_inj i j) (v ·) (v · |>.2) h
+  linearIndependent_iff'.mpr fun s v h ↦ by
+    simpa using linearIndependent_exp' (ι := s) (u ·) (u · |>.2)
+      (fun i j ↦ by simpa [Subtype.coe_inj] using @u_inj i j)
+      (v ·) (v · |>.2) (by simpa [sum_attach _ fun x ↦ v x * cexp (u x)])
+
+theorem algebraicIndependent_exp (u : ι → integralClosure ℚ ℂ) (hu : LinearIndependent ℕ u) :
+    AlgebraicIndependent (integralClosure ℚ ℂ) fun i ↦ exp (u i) := by
```
Comment (alreadydone) [inline Mathlib/NumberTheory/Transcendental/Lindemann/Basic.lean:215]: AlgebraicIndependent over `integralClosure ℚ ℂ` is the same as AlgebraicIndependent over ℚ (or ℤ), right? Do we have this? @acmepjz

Comment (acmepjz) [reply Mathlib/NumberTheory/Transcendental/Lindemann/Basic.lean:215]: Seems that we don't have this yet. Let me check later.

File: Mathlib/NumberTheory/Transcendental/Lindemann/Init/AnalyticalPart.lean [hunk 11]
```diff
@@ -0,0 +1,185 @@
...
+Authors: Yuyang Zhao
+-/
+import Mathlib.Algebra.Polynomial.SumIteratedDerivative
+import Mathlib.Analysis.Calculus.Deriv.Polynomial
+import Mathlib.Analysis.SpecialFunctions.ExpDeriv
+import Mathlib.MeasureTheory.Integral.FundThmCalculus
+import Mathlib.Topology.Algebra.Polynomial
+
+/-!
+# The Lindemann-Weierstrass theorem
```
Comment (jcommelin) [inline Mathlib/NumberTheory/Transcendental/Lindemann/Init/AnalyticalPart.lean:13]: My impression is that this file is pretty close to being ready for merging.
It would of course need docstrings and some more comments and documentation.

File: Mathlib/NumberTheory/Transcendental/Lindemann/Basic.lean (hunk 10 above)
Comment (alreadydone) [reply Mathlib/NumberTheory/Transcendental/Lindemann/Basic.lean:215]: > Looks like [Algebra.IsAlgebraic.trans](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Algebraic.html#Algebra.IsAlgebraic.trans) and [IntermediateField.isAlgebraic_adjoin_iff_isAlgebraic](https://leanprover-community.github.io/mathlib4_docs/Mathlib/FieldTheory/AlgebraicClosure.html#IntermediateField.isAlgebraic_adjoin_iff_isAlgebraic) are two things to be generalized.

I've generalized these to domains and proven the Transcendental version of this [here](https://github.com/leanprover-community/mathlib4/compare/Subalgebra.algebraicClosure?expand=1#diff-1fed4ce28689dbfee7313dcc400e1b532d2bc3e97b932d74791f8506e07f9083R932-R939) but I'll wait for #6183 and #19370 before making a PR.

Comment (alreadydone) [reply Mathlib/NumberTheory/Transcendental/Lindemann/Basic.lean:215]: > By the way, [Transcendental.of_tower_top_of_injective](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Algebraic.html#Transcendental.of_tower_top_of_injective) should be renamed to `Transcendental.restrictScalars` and [IsAlgebraic.tower_top_of_injective](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Algebraic.html#IsAlgebraic.tower_top_of_injective) should be renamed to `IsAlgebraic.extendScalars`, as someone already pointed out that the original naming is not appropriate.

Why were `IsAlgebraic.tower_top_of_subalgebra_le` and `Transcendental.of_tower_top_of_subalgebra_le` not changed to `extend/restrictScalars`?

Comment (alreadydone) [reply Mathlib/NumberTheory/Transcendental/Lindemann/Basic.lean:215]: I've proven [`AlgebraicIndependent.extendScalars`](https://github.com/leanprover-community/mathlib4/compare/Subalgebra.algebraicClosure?expand=1#diff-79fb72674b5880e7c904ddfcdbb728fd400ab58285267410bccebb4b118337baR627-R628); will merge master and clean up when I get up.

Comment (Ruben-VandeVelde) [reply Mathlib/NumberTheory/Transcendental/Lindemann/Basic.lean:215]: @alreadydone I don't know what you want to change here - feel free to push directly to this PR

Comment (alreadydone) [reply Mathlib/NumberTheory/Transcendental/Lindemann/Basic.lean:215]: Now it suffices to show `AlgebraicIndependent ℚ fun i ↦ exp (u i)` but that may not make the proof easier ...

File: Mathlib/NumberTheory/Transcendental/Lindemann/Init/AnalyticalPart.lean [hunk 12]
```diff
@@ -45,9 +47,15 @@ theorem integral_exp_mul_eval (p : ℂ[X]) (s : ℂ) :
   simp
 
 /--
-`P` is a slightly generalized version of `Iᵢ` in
+In what follows, we will use integration by parts to rewrite provide an integral form for `P`
```
Comment (jcommelin) [inline Mathlib/NumberTheory/Transcendental/Lindemann/Init/AnalyticalPart.lean:50]: Upstreaming the diff in this file seems like a natural next PR to me.

**Comment by astrainfinita** [comment]
This PR has been migrated to a fork-based workflow: https://github.com/leanprover-community/mathlib4/pull/28013
